US07652008B2
(±)-trans-6,6-dimethyl-8-[(2-phenylethyl)amino]-1,2,3,6,7,8-hexahydro-4,5-dioxa-1-aza-anthracene-7-ol
To (±)-trans-7-hydroxy-6,6-dimethyl-8-(2-phenylethylamino)-7,8-dihydro-1H,6H-4,5-dioxa-1-aza-anthracene-2-one (67 mg, 0.18 mmol), lithium aluminum hydride (1M solution in tetrahydrofuran, 910 μL, 0.91 mmol) was added at room temperature, and the resulting mixture was stirred at 90° C. for 0.5 hour. Upon the completion of the reaction, saturated sodium hydrogencarbonate aqeuous solution was added thereto, the resulting solution was extracted with ethyl acetate, washed with saturated sodium chloride solution, dried over magnesium sulfate, and concentrated. The resulting mixture was purified by silica gel column (ethyl acetate) and the aimed product was obtained (yield: 59%).

reactant | (±)-trans-7-hydroxy-6,6-dimethyl-8-(2-phenylethylamino)-7,8-dihydro-1H,6H-4,5-dioxa-1-aza-anthracene-2-one | 0.18 mmol, 67 mg | O[C@@H]1C(OC=2C=C3OCC(NC3=CC2[C@H]1NCCC1=CC=CC=C1)=O)(C)C | C21H24N2O4
reactant | lithium aluminum hydride | 0.91 mmol, 1M, 910 μL | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
product | (±)-trans-6,6-dimethyl-8-[(2-phenylethyl)amino]-1,2,3,6,7,8-hexahydro-4,5-dioxa-1-aza-anthracene-7-ol | yield: 59% | CC1(OC=2C=C3OCCNC3=CC2[C@H]([C@@H]1O)NCCC1=CC=CC=C1)C | C21H26N2O3
